US04617314
2-Methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid, 5.0 g, is dissolved in a mixed solvent of 50 ml of dimethylformamide and 50 ml of acetone, 6.5 ml of triethylamine is added and the solution is stirred. Under cooling at 15°-18° C., 2.2 g of ethyl chlorocarbonate is added dropwise for 10 minutes, and the solution is stirred at room temperature for one hour. Thereafter, 2.7 g of 1-methyl-2-aminomethylpyrrolidine is added and the whole is stirred at room temperature for 3 hours and allowed to stand for 15 hours. Excess triethylamine and acetone are distilled off under reduced pressure and the resulting residue is poured into 300-400 ml of water. The aqueous layer is extracted via with chloroform three times and the extract layer is washed with aqueous sodium bicarbonate solution, water and sodium chloride saturated water in this sequence. After drying, the chloroform is distilled off under reduced pressure and the residue obtained is recrystallized from ethyl acetate to give crystals of N-(1-methyl-2-pyrrolidinyl-methyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 187°-189° C.

reactant | 2-Methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(N)(=O)=O | C10H11NO5S
reactant | ethyl chlorocarbonate | 2.2 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-methyl-2-aminomethylpyrrolidine | 2.7 g | CN1C(CCC1)CN | C6H14N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
product | N-(1-methyl-2-pyrrolidinyl-methyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | CN1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C16H23N3O4S
